US04851526
Hexahydro-1-(4-nitrophenyl)-4-propyl-1H-1,4-diazepine
In a manner similar to Preparation 2, react 1-fluoro-4-nitrobenzene with hexahydro-1-propyl-1H-1,4-diazepine to obtain the title compound.

reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hexahydro-1-propyl-1H-1,4-diazepine | C(CC)N1CCNCCC1 | C8H18N2
product | Hexahydro-1-(4-nitrophenyl)-4-propyl-1H-1,4-diazepine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CCC1)CCC | C14H21N3O2
